US06492370B1
1-[(2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]-4-methylvaleryl]-4-methylpiperazine (Compound No. 27-1)
In anhydrous tetrahydrofuran (3 ml) are dissolved 1-[(2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-4-methylvaleryl]-4-methylpiperazine (Compound No. 18-1, 500 mg) and triphenylphosphine (654 mg) under a nitrogen atmosphere, and the solution is stirred under salt-ice cooling for 30 minutes. To the solution are added a solution of diethyl azodicarboxylate (435 mg) in anhydrous tetrahydrofuran (1 ml) and a solution of thioacetic acid (0.2 ml) in anhydrous tetrahydrofuran (2 ml) successively dropwise while keeping liquid temperature at 5° C. The mixture is stirred for one hour, a 10% aqueous sodium hydrogencarbonate solution is added to the reaction mixture, and the whole is extracted with ether. The organic layer is washed with a 10% aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 472 mg (82%) of the titled compound (Compound No. 27-1).

reactant | triphenylphosphine | 654 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 435 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 0.2 ml | C(C)(=S)O | C2H4OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 1-[(2S)-2-[3-(2-hydroxyethyl)-3-phenethylureido]-4-methylvaleryl]-4-methylpiperazine | OCCN(C(N[C@H](C(=O)N1CCN(CC1)C)CC(C)C)=O)CCC1=CC=CC=C1 | C22H36N4O3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-[(2S)-2-[3-[2-(Acetylthio)ethyl]-3-phenethylureido]-4-methylvaleryl]-4-methylpiperazine | 472 mg, 82% | C(C)(=O)SCCN(C(N[C@H](C(=O)N1CCN(CC1)C)CC(C)C)=O)CCC1=CC=CC=C1 | C24H38N4O3S
